Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
EGD ___
Colonoscopy ___

 
History of Present Illness:
___ is a ___ yo woman with PMH significant for
orthotopic liver transplant (on tacrolimus) and multi-drug
resistant UTI who presented to the ED with bilateral ___ rash.

Patient reports a history of eczema since childhood that was
well-controlled, typically presenting with occasional lesions on
the medial aspect of her elbow. One month prior to admission, 
she
developed a self-reported "eczema flare" on her bilateral lower
extremities, particularly on her ankles and dorsal aspect of
knees. She described this rash as clustered, erythematous, 
raised
bumps associated with significant pruritus. Despite
hydrocortisone cream and PO antibiotics prescribed by her PCP,
the rash continued to spread to her entire ___, as well as
stomach, back, and arms, prompting her to present to the ED. She
endorses some chills and night sweats, but denies fever.

She also described an unrelated episode of burning with 
urination
2 days prior to admission, but reports that this has since
resolved and denies any current dysuria or urinary frequency. 
She
reports a history of intermittent perineal pain and dysuria.

In the ED, initial vital signs were notable for 98.5 | 60 |
131/66 | 16 | 95% RA. Exam notable for erythematous, warm,
slightly swollen ___ with flakey patches and associated
excoriation. Abdominal exam notable for suprapubic tenderness.
Labs were notable for low albumin 3.3, elevated lipase 65. Trace
leukocytes, 10 WBC, and few bacteria on UA. Patient was given 
NS,
PO oxycodone, and IV vanc.

Consults: Derm, Transplant Hepatology. Dermatology recommended
Cefazolin given concern for SSTI and clobatesol. Likelihood of
secondary syphilis was felt to be low.
 
Vitals on transfer: 98.1 | 136/72 | 60 | 16 | 95% RA  

Upon arrival to the floor, the patient was laying in bed and
pleasantly conversant. She continues to endorse ___ pain
bilaterally.

Review of Systems:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
 - in ___ she has a heart attack in ___ s/p cath with no 
intervention.  
 - Alcoholic cirrhosis s/p Liver transplant (___) on tacrolimus 
 
 - H/o MDR UTI  
 - Osteoporosis ___ steroid use, s/p humerus fx ___  
 - h/o RUE and RLE Thrombophlebitis  
 - RLE DVT ___ on coumadin until s/p IVC filter ___, now off 
warfarin  
 - h/o left foot cellulitis  
 - Chronic low back pain  
 - Hypertension  
 - Asthma/COPD  
 - Hyperlipidemia  
 - GERD  
 - Depression  
 - vertebral compression fractures  
 - Orthotopic cadaver liver transplant ___ ___  
 - Right unipolar hemiarthroplasty for right femoral neck fx  
 ___  
 - ORIF of left hip intertrochanteric hip fracture ___  
 ___  
 - Removal of prominent screw and replacement with shorter screw 
 
 and bursectomy ___ ___  
 - Ventral hernia repair with mesh ___ ___  
 - ___ DVT  

 
Social History:
___
Family History:
Mother with hx of CVA and seizure, sister with breast cancer,  
Father died of lung cancer.  
No family history of kidney disease.  
 
Physical Exam:
ADMISSION PHYSICAL
==================
VITALS: Afebrile, Stable
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally; gaze conjugate. Sclera anicteric and
without injection. Moist mucous membranes. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/ end-expiratory
wheezes. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended. Mildly tender to
deep palpation in suprapubic region. 
EXTREMITIES: Mild 1+ edema in RLE. No clubbing, cyanosis. Pulses
DP/Radial 2+ bilaterally.
SKIN: Large brown scaly plaques on anterior and medial surface 
of
both RLE and LLE. TTP. Erythematous papules on bilateral arms,
abdomen, and left lateral thigh. No palmar/plantar lesions. 
NEUROLOGIC: No gross deficits. AOx3.

DISCHARGE PHYSICAL
==================
VITALS: 24 HR Data (last updated ___ @ 740)
    Temp: 98.1 (Tm 100), BP: 134/69 (134-163/60-76), HR: 69
(51-69), RR: 18, O2 sat: 98% (94-98), O2 delivery: Ra, Wt: 132.2
lb/59.97 kg    
GENERAL: NAD
HEENT: NC/AT, anicteric sclerae, MMM, poor dentition
CARDIAC: RRR, no M/R/G
LUNGS: CTAB, no IWOB
ABDOMEN: soft, NTND, +BS
EXTREMITIES: Mild 1+ edema in RLE. No clubbing, cyanosis. Pulses
DP/Radial 2+ bilaterally.
SKIN: Large brown scaly plaques on anterior and medial surface 
of
both RLE and LLE -markedly improved.  Erythematous papules on
bilateral arms, abdomen, and left lateral thigh - improved.
NEUROLOGIC: No gross deficits. AOx3.
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:38PM BLOOD WBC-5.9 RBC-3.97 Hgb-11.8 Hct-36.3 MCV-91 
MCH-29.7 MCHC-32.5 RDW-14.4 RDWSD-48.5* Plt ___
___ 08:38PM BLOOD Neuts-48.3 ___ Monos-11.9 
Eos-12.6* Baso-0.5 Im ___ AbsNeut-2.84 AbsLymp-1.55 
AbsMono-0.70 AbsEos-0.74* AbsBaso-0.03
___ 08:38PM BLOOD Plt ___
___ 08:38PM BLOOD Glucose-97 UreaN-21* Creat-1.1 Na-145 
K-4.6 Cl-107 HCO3-26 AnGap-12
___ 08:38PM BLOOD ALT-8 AST-15 AlkPhos-79 TotBili-0.3
___ 08:38PM BLOOD Lipase-65*
___ 08:38PM BLOOD Albumin-3.3* Calcium-9.5 Phos-3.1 Mg-1.7
___ 04:57AM BLOOD tacroFK-5.0
___ 10:45PM BLOOD Lactate-1.0

___ 11:30PM URINE Color-Straw Appear-Clear Sp ___
___ 11:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-TR*
___ 11:30PM URINE RBC-2 WBC-10* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 11:30PM URINE Mucous-RARE*

MICRO/PERTINENT RESULTS
=======================

WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

RPR ___: Non-Reactive

Blood Cultures ___: Pending - No Growth to Date

STUDIES
=======
Right Lower Extremity Doppler Ultrasound ___
No evidence of deep venous thrombosis in the right lower 
extremity veins.

EGD ___

Esophagus: 
Mucosa: A salmon colored island was seen and biopsied at 33 cm. 
A regular Z line was seen at 35 cm.  

Stomach: 
Mucosa: Normal mucosa was noted. Two cold forceps biopsies were 
performed for histology at the stomach body. Two cold forceps 
biopsies were performed for histology at the stomach antrum. 

Duodenum: 
Mucosa: Normal mucosa was noted. Two cold forceps biopsies were 
performed for histology at the duodenal bulb. Four cold forceps 
biopsies were performed for histology at the D2. 

Impression: 
A salmon colored island was seen and biopsied at 33 cm.
A regular Z line was seen at 35 cm.
Normal mucosa in the stomach. Two cold forceps biopsies were 
performed for histology at the stomach body. Two cold forceps 
biopsies were performed for histology at the stomach antrum. 
Normal mucosa in the duodenum. Two cold forceps biopsies were 
performed for histology at the duodenal bulb. Four cold forceps 
biopsies were performed for histology at the D2. 

Colonoscopy ___
Findings: 
Mucosa: Quality of preparation: ___ 2 + 3 + 2. DRE: Normal. 
The colonoscope inserted through the anus and under direct 
visualization advanced to the terminal ileum. The appendiceal 
orifice was identified. Color, texture, mucosa and anatomy of 
the colon were carefully examined. Terminal ileum: Normal. 
Cecum: A small polyp was seen and removed (see below). Ascending 
colon: Normal. Transverse colon: Normal. Descending colon: 
Normal. Sigmoid colon: A small polyp was seen and removed (see 
below). Multiple diverticula were seen. Rectum: Normal. TI and 
random colon biopsies were taken.  Cold forceps biopsies were 
performed for histology throughout the whole colon. Four cold 
forceps biopsies were performed for histology at the terminal 
ileum. 

Protruding Lesions: A single sessile 1 mm polyp of benign 
appearance was found in the cecum. A single-piece polypectomy 
was performed using a cold forceps. The polyp was completely 
removed. A single sessile 10 mm polyp of benign appearance was 
found in the sigmoid colon. A single-piece polypectomy was 
performed using a hot snare. The polyp was completely removed. 
Impression: 
Quality of preparation: ___ 2 + 3 + 2. DRE: Normal. The 
colonoscope inserted through the anus and under direct 
visualization advanced to the terminal ileum. The appendiceal 
orifice was identified. Color, texture, mucosa and anatomy of 
the colon were carefully examined.
Terminal ileum: Normal.
Cecum: A single sessile 1 mm polyp of benign appearance was 
found in the cecum. A single-piece polypectomy was performed 
using a cold forceps. The polyp was completely removed. 
Ascending colon: Normal.
Transverse colon: Normal.
Descending colon: Normal.
Sigmoid colon: A single sessile 10 mm polyp of benign appearance 
was found in the sigmoid colon. A single-piece polypectomy was 
performed using a hot snare. The polyp was completely removed. 
Multiple diverticula were seen.
Rectum: Normal.
Cold forceps biopsies were performed for histology throughout 
the whole colon. Four cold forceps biopsies were performed for 
histology at the terminal ileum

DISCHARGE LABS
==============
___ 04:46AM BLOOD WBC-10.5* RBC-3.97 Hgb-11.8 Hct-35.1 
MCV-88 MCH-29.7 MCHC-33.6 RDW-14.0 RDWSD-45.2 Plt ___
___ 04:46AM BLOOD ___ PTT-28.7 ___
___ 04:46AM BLOOD Glucose-106* UreaN-21* Creat-0.9 Na-141 
K-4.7 Cl-104 HCO3-24 AnGap-13
___ 04:46AM BLOOD ALT-10 AST-19 AlkPhos-86 TotBili-0.4
___ 04:46AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.6
___ 04:46AM BLOOD tacroFK-3.8*
 
Brief Hospital Course:
___ female with a history of alcoholic cirrhosis status 
post OLT in ___ on tacrolimus, eczema, hypertension, 
depression, hyperlipidemia, asthma, chronic pain syndrome, and 
MDR UTI who presented with one month history of b/l ___ rash 
concerning for eczematous eruption with superimposed cellulitis.

ACTIVE ISSUES:
# Eczematous eruption complicated by right lower extremity 
cellulitis
The patient had a self-reported history of eczema and is 
followed in ___ clinic who presented with a history of 
pruritic skin rash and widespread scaly plaques most consistent 
with a pruritic eczematous eruption. Given erythema, edema, and 
TTP of R>L ___, eczema flare was also likely complicated by 
superimposed cellulitis. Dermatology was consulted and 
recommended topical steroids (clobetasol 0.05% ointment twice 
daily), aggressive emollient use and cefazolin for 10 days. The 
patient's wound culture later grew coagulase-positive staph and 
she was transitioned to cephalexin as she remained stable 
without other infectious signs or symptoms. Secondary syphilis 
was considered but thought to be unlikely and an RPR was 
nonreactive. Given her asymmetric right > left lower extremity 
swelling, a lower extremity doppler ultrasound was ordered but 
was negative for DVT.

# Alcoholic Cirrohosis s/p OLT (___)
The patient's LFTs were baseline admission and continued to 
remain so. She was continued on her home dose of tacrolimus 0.5 
mg twice daily and her Keppra levels were trended daily. As she 
was admitted as an inpatient, she underwent screening EGD and 
colonoscopy on ___ to avoid loss of follow-up.

# H/o MDR E. Coli UTI
Patient had history of MDR-E coli UTI sensitive only to 
meropenem, gentamicin, nitrofurantoin, and zosyn. Although she 
was found to have WBC and bacteria on UA and initially had mild 
suprapubic tenderness to palpation, she was afebrile with normal 
WBC and did not endorse any current urinary symptoms such as 
dysuria, increased frequency, increased urgency, or back pain. 
She had been previously evaluated as an outpatient and 
infectious disease clinic for this finding but was due to have 
further workup of persistent perineal pain thought to be related 
to postmenopausal atrophic vaginitis and complex pain syndrome 
with OB/GYN. Given lack of symptoms, broad-spectrum antibiotics 
were deferred during her hospitalization. She was closely 
monitored for signs of infection and urinary symptoms.

CHRONIC ISSUES:

# Chronic Pain
The patient was continued on oxycodone 5 mg twice daily as 
needed and gabapentin 300 mg twice daily.

# HTN
The patient remained normotensive since admission. She was 
continued on home lisinopril 2.5 mg daily and furosemide 20 mg 
daily.

# Asthma
Her O2 sats stable were on admission and she denied any recent 
asthma flares. The patient was continued on albuterol every 4 
hours as needed and fluticasone twice daily.

# Depression
The patient was continued on citalopram 40 mg daily.

# HLD
The patient was continued on atorvastatin 80 mg nightly.

# Insomnia
The patient was continued on trazodone 100 mg nightly as needed.

# Hx MI s/p cath
The patient was continued on aspirin 81 mg daily and metoprolol 
XL 50 mg daily.

TRANSITIONAL ISSUES
===================
[]Tamiflu: Continue taking Tamiflu 75 mg once daily for 10 days 
(last day ___
[]Cephalexin: Continue taking 500 mg every 6 hours for 10 total 
days of treatment (last day ___
[]Clobetasol: continue using twice daily until ___. Patient to 
followup in ___ clinic on ___.
[]Tacrolimus: NO changes, continue 0.5mg very 12 hours
[]Esophagus, Stomach, Colon Biopsies: Please followup with GI 
office for pathology results, patient will be notified by GI 
office
[]History of MDR E. Coli UTI: deferred treatment give lack of 
symptoms, patient should follow-up with OB/GYN to rule out 
chronic pain component

#CODE: Full (presumed)
#CONTACT: ___ (son) Phone: ___
 
___ on Admission:
1. Lisinopril 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Citalopram 40 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Gabapentin 300 mg PO BID 
7. HydrOXYzine 25 mg PO Q6H:PRN itching 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO BID 
10. OxyCODONE (Immediate Release) 5 mg PO BID:PRN Pain - 
Moderate 
11. Polyethylene Glycol 17 g PO DAILY 
12. TraZODone 50 mg PO QHS:PRN insomnia 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN itching 
rash 
14. Vitamin D 800 UNIT PO DAILY 
15. Calcium Carbonate 500 mg PO TID 
16. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN 
itching rash 
17. Ferrous Sulfate 325 mg PO DAILY 
18. Fluticasone Propionate 110mcg 1 PUFF IH BID 
19. Metoprolol Succinate XL 50 mg PO DAILY 
20. Tacrolimus 0.5 mg PO Q12H 
21. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob/wheeze 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*12 Capsule Refills:*0
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*8 Capsule Refills:*0 
2.  OSELTAMivir 75 mg PO DAILY 
RX *oseltamivir 75 mg 1 capsule(s) by mouth daily Disp #*5 
Capsule Refills:*0
RX *oseltamivir 75 mg 1 capsule(s) by mouth daily Disp #*2 
Capsule Refills:*0 
3.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
RX *clobetasol 0.05 % affected area on both legs twice daily 
Refills:*0 
4.  TraZODone 100 mg PO QHS:PRN insomnia  
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob/wheeze  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Calcium Carbonate 500 mg PO TID  
9.  Citalopram 40 mg PO DAILY  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 300 mg PO BID  
14.  HydrOXYzine 25 mg PO Q6H:PRN itching 
RX *hydroxyzine HCl 25 mg 1 by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
15.  Lisinopril 2.5 mg PO DAILY  
16.  Metoprolol Succinate XL 50 mg PO DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Omeprazole 40 mg PO BID  
19.  OxyCODONE (Immediate Release) 5 mg PO BID:PRN Pain - 
Moderate  
20.  Polyethylene Glycol 17 g PO DAILY  
21.  Tacrolimus 0.5 mg PO Q12H 
RX *tacrolimus [Prograf] 0.5 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*60 Capsule Refills:*0 
22.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN 
itching rash  
23.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Eczema flare complicated by right lower extremity cellulitis
Influenza exposure
Chronic pain syndrome
Alcoholic cirrhosis status post orthotopic liver transplant 
(___)

Secondary Diagnoses
===================
Hypertension
Asthma
Depression
Hyperlipidemia
Insomnia
History of MI status post cath

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You came to the hospital because you had an eczema flareup and 
a superficial infection in your right leg

What happened while I was admitted to the hospital?
-You were seen by the dermatologists who recommended steroid 
creams as well as an antibiotic for 10 days because of possible 
infection in your right leg
-Your infection workup showed a bacterial infection in your 
right leg that was treated with an antibiotic
–An ultrasound of your right leg did not show any signs of a 
blood clot
–Your IV antibiotic was converted to an oral antibiotic that you 
can take after you leave the hospital
-During a social group meeting, a visitor was found to have the 
flu and so you were given a medication to prevent you from 
developing the flu
-You also underwent a screening EGD and colonoscopy as you were 
due for both
-Your lab numbers were closely monitored and you were continued 
on your home medications

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___